US06583135B2
Preparation of [3-(tert-Butoxycarbonyl)-8,9-dichloro-2,3,4,5-tetrahydroazepino[4,5-b]indol-6(1H)-yl]acetic Acid
A solution of KOH (0.17 g, 3.0 mmol) in H2O (10 mL) was added to a solution of tert-butyl 8,9-dichloro-6-(2-ethoxy-2-oxoethyl)-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate (1.00 g, 2.27 mmol) in THF (15 mL). The mixture was heated at 60° C. for 2 h. The reaction was then cooled to rt, acidified with 10% aqueous HCl, and extracted with EtOAc (3×30 mL). The combined organic extracts were washed with brine, dried over Na2SO4, decanted, and concentrated to give crude acid (1.03 g, 110%): 1H NMR (300 MHz, CDCl3) δ 7.50 (s, 1H), 7.26 (s, 1H), 4.73 (s, 2H), 3.74 (m, 2H), 3.67 (m, 2H), 2.89 (m, 4H), 1.47 (s, 9H); MS(ESI+) m/z 410.9.

reactant | KOH | 3.0 mmol, 0.17 g | [OH-].[K+]
reactant | tert-butyl 8,9-dichloro-6-(2-ethoxy-2-oxoethyl)-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate | 2.27 mmol, 1.00 g | ClC=1C(=CC=2C3=C(N(C2C1)CC(=O)OCC)CCN(CC3)C(=O)OC(C)(C)C)Cl | C21H26Cl2N2O4
reactant | HCl | Cl | ClH
solvent | H2O | 10 mL | O | H2O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | [3-(tert-Butoxycarbonyl)-8,9-dichloro-2,3,4,5-tetrahydroazepino[4,5-b]indol-6(1H)-yl]acetic Acid | 1.03 g, 110% | C(C)(C)(C)OC(=O)N1CCC=2N(C=3C=C(C(=CC3C2CC1)Cl)Cl)CC(=O)O | C19H22Cl2N2O4
